US07713979B2
1-(1-Methylcyclohexyl)pyrrolidin-2-one
Dissolve 4-chloro-N-(1-methylcyclohexyl)butanamide (1.35 g, 6.20 mmol) in anhydrous THF (100 mL) and add NaH (1.24 g, 31.00 mmol, 60% wt in oil). Heat and stir the reaction mixture at 60° C. overnight then cool it to room temperature. Add water (50 mL) carefully and extract the aqueous with EtOAc (3×200 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 20-70% of EtOAc-Hexane) to give 0.64 g (57%) of the title compound as a colorless oil. 1H NMR (CDCl3) δ 3.41 (t, 2H), 2.34 (t, 2H), 2.26 (m, 2H), 1.92 (m, 2H), 1.32-1.56 (m, 8H), 1.26 (s, 3H).

reactant | 4-chloro-N-(1-methylcyclohexyl)butanamide | 6.20 mmol, 1.35 g | ClCCCC(=O)NC1(CCCCC1)C | C11H20ClNO
reactant | NaH | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(1-Methylcyclohexyl)pyrrolidin-2-one | 0.64 g, 57% | CC1(CCCCC1)N1C(CCC1)=O | C11H19NO
